US06388131B2
2,3,4-Trifluoro-1-[(3-Fluoro-4-methoxyphenyl)aminosulfonyl]benzene
The title compound was prepared in a manner similar to that described in Example 1, by replacing 4-fluoro-3-nitrophenylsulfonyl chloride with 2,3,4-trifluorophenylsulfonyl chloride and replacing p-anisidine with 3-fluoro-4-methoxyaniline. 1H-NMR (CDCl3): δ 7.52 (1H, m), 7.00 (1H, m), 6.93 (1H, m), 6.80 (2H, m), 6.70 (1H, br s), 3.80 (3H, s).

reactant | 2,3,4-trifluorophenylsulfonyl chloride | FC1=C(C=CC(=C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 3-fluoro-4-methoxyaniline | FC=1C=C(N)C=CC1OC | C7H8FNO
product | 2,3,4-Trifluoro-1-[(3-Fluoro-4-methoxyphenyl)aminosulfonyl]benzene | FC1=C(C=CC(=C1F)F)S(=O)(=O)NC1=CC(=C(C=C1)OC)F | C13H9F4NO3S
